US06696473B2
C. Preparation of 2-Dimethylamino-N-{3-[3-furan-2-ylmethyl-5-(5-methoxy-3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-phenyl}acetamide
In a manner similar to Example 45, 2-mercapto-5-methoxybenzothiazole was alkylated with methyl p-toluenesulfonate and then condensed with 2-dimethylamino-N-[3-(3-furan-2-ylmethyl-4-oxothiazolidin-2-ylideneamino)-phenyl]acetamide. MS(ESI): 550 (MH+).

reactant | 2-mercapto-5-methoxybenzothiazole | SC=1SC2=C(N1)C=C(C=C2)OC | C8H7NOS2
reactant | methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 2-dimethylamino-N-[3-(3-furan-2-ylmethyl-4-oxothiazolidin-2-ylideneamino)-phenyl]acetamide | CN(CC(=O)NC1=CC(=CC=C1)N=C1SCC(N1CC=1OC=CC1)=O)C | C18H20N4O3S
product | 2-Dimethylamino-N-{3-[3-furan-2-ylmethyl-5-(5-methoxy-3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-phenyl}acetamide | CN(CC(=O)NC1=CC(=CC=C1)N=C1SC(C(N1CC=1OC=CC1)=O)=C1SC2=C(N1C)C=C(C=C2)OC)C | C27H27N5O4S2
